data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_117779_1,[C:1]([N:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])[O:7][H:9])([C:5](=[C:6]([H:16])[H:17])[H:12])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[N:3]([O:7][H:9])[C:5]1([C:6]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])([H:16])[H:17])[H:12],70.16140250002863
MR_552925_0,[C:1](/[N:9]=[C:3](\[C:4]([C:5]([C:2]([H:17])([H:18])[H:19])[N:6]([H:12])[H:13])[O:8][H:11])[O:7][H:10])([H:14])([H:15])[H:16]>>[C:1]([N:9]1[C:3]([O:7][H:10])=[C:4]([O:8][H:11])[C@@:5]1([C:2]([H:17])([H:18])[H:19])[N:6]([H:12])[H:13])([H:14])([H:15])[H:16],54.47202000001198
MR_367125_0,[C:1]([O:4]/[C:2]([N:3]([H:9])[H:10])=[N:6]/[H:11])([O:5][H:8])=[O:7]>>[C:1](=[O:4])([O:5][H:8])[O:7]/[C:2]([N:3]([H:9])[H:10])=[N:6]/[H:11],28.383707499961872
MR_435051_0,[N:1]([N:2]([H:7])[H:8])([C:3](=[O:5])[H:9])[C:4](=[O:6])[H:10]>>[N:1](\[N:2]([H:7])[H:8])=[C:3](\[O:5][C:4](=[O:6])[H:10])[H:9],46.224160000004986
MR_278304_1,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])([C:5]([C:4]([H:16])([H:17])[H:18])=[C:6]([H:19])[H:20])[O:7][O:8][H:9]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])=[C:5]([C:4]([H:16])([H:17])[H:18])[C:6]([O:7][O:8][H:9])([H:19])[H:20],48.35766000000447
MR_54427_0,[C:1]([C:4]([O:6][H:9])=[O:8])([N:5]([H:11])[H:12])([O:7][C:2]([C:3]([H:15])([H:16])[H:17])([H:13])[H:14])[H:10]>>[C:1]([C:4]([O:6][C:2]([C:3]([H:15])([H:16])[H:17])([H:13])[H:14])=[O:8])([N:5]([H:11])[H:12])([O:7][H:9])[H:10],60.34228249999373
MR_560011_1,[C:1]([N:4]([N:5]([C:2]([H:17])([H:18])[H:19])[C:3]([H:20])([H:21])[H:22])[N:9]=[C:6]([N:7]([H:10])[H:11])[N:8]([H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([N:4][N:9][C:6]([N:5]([C:2]([H:17])([H:18])[H:19])[C:3]([H:20])([H:21])[H:22])([N:7]([H:10])[H:11])[N:8]([H:12])[H:13])([H:14])([H:15])[H:16],44.71753250002792
MR_85749_0,[C:1](/[C:7](=[C:6](\[C:5](=[C:2]([N:3]([H:8])[H:9])[N:4]([H:10])[H:11])[H:12])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:7]1([H:14])[C:2]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[C:5]([H:12])=[C:6]1[H:13])([H:15])([H:16])[H:17],51.04461499999772
MR_9807_0,[N:1](/[C:2](=[C:5](/[N:4]([H:11])[H:12])[H:13])[O:6][H:7])([N:3]([H:9])[H:10])[H:8]>>[N:1]1([N:3]([H:9])[H:10])[C:2]([O:6][H:7])([H:8])[C:5]1([N:4]([H:11])[H:12])[H:13],54.02712249999382
MR_702496_1,[C:1]([C:2]([N:3]([H:9])[H:10])=[O:7])([N:6][N:5][O:4][H:8])([H:11])[H:12]>>[C:1](=[N:6][N:5]([C:2]([N:3]([H:9])[H:10])=[O:7])[O:4][H:8])([H:11])[H:12],70.97589750000537
MR_503236_0,[C:1]([C:2]([C:4](/[C:6](=[N:7]/[H:12])[H:15])=[O:8])([H:13])[H:14])([C:3]([H:16])([H:17])[H:18])([N:5]([H:10])[H:11])[H:9]>>[C:1](\[C:2]([C:4]([C:6]([N:7]([H:10])[H:12])([H:9])[H:15])=[O:8])([H:13])[H:14])([C:3]([H:16])([H:17])[H:18])=[N:5]/[H:11],43.69596250000328
MR_370329_1,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])(/[C:6](=[C:5](\[C:3]([H:17])([H:18])[H:19])[O:8][H:11])[H:13])([O:7][H:10])[H:12]>>[C:1](=[C:6](\[C:5]([C:3]([H:17])([H:18])[H:19])([C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])[O:8][H:11])[H:13])(\[O:7][H:10])[H:12],62.294434999987374
MR_585940_0,[C:1]([C:5]([N:8]/[C:2](=[C:3](\[N:4]([H:11])[H:12])[O:7][H:10])[O:6][H:9])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C@:5]1([H:13])[C@@:3]([N:4]([H:11])[H:12])([O:7][H:10])[C:2]([O:6][H:9])=[N:8]1)([H:14])([H:15])[H:16],42.09834749997057
MR_50646_2,[C:1]1([C:4]([C:2]([H:9])([H:10])[H:11])=[O:7])([H:8])[C:5]([C:3]([H:12])([H:13])[H:14])=[N:6]1>>[C:1]1([H:8])=[N:6][C:5]1([C:3]([H:12])([H:13])[H:14])[C:4]([C:2]([H:9])([H:10])[H:11])=[O:7],68.96476000005364
MR_694317_0,[C:1]([C:2]([C:3](=[O:8])[H:11])=[O:7])([C:4](=[C:5]([H:13])[H:14])[H:12])([O:6][H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([O:8][H:9])[H:11])=[O:7])(=[O:6])[H:10],56.48503999999463
MR_591252_0,[C:1]([C:2]([N:4]=[O:5])=[O:6])([O:3][H:7])([H:8])[H:9]>>[C@:1]([C:2](=[O:6])[H:9])([O:3][H:7])([N:4]=[O:5])[H:8],50.84067749997757
MR_227764_1,[C@@:1]([N:3]([C:2]([H:14])([H:15])[H:16])[H:9])(/[C:5](=[N:7]/[N:4]([H:11])[H:12])[H:13])([O:6][H:8])[H:10]>>[C@:1]1([O:6][H:8])([H:10])[C@:5]([N:3]([C:2]([H:14])([H:15])[H:16])[H:9])([H:13])[N:7]1[N:4]([H:11])[H:12],36.18164999999905
MR_600459_0,[C:1]12([C:3]([H:15])([H:16])[H:17])[N:4]([H:11])[C:2]([O:8][H:10])([H:12])[C:6]([H:9])([H:14])[C:5]1([H:13])[O:7]2>>[C:1]1([C:3]([H:15])([H:16])[H:17])([O:7][H:9])[N:4]([H:11])[C:2]([O:8][H:10])([H:12])[C:6]([H:14])=[C:5]1[H:13],61.85455749999221
MR_520777_0,[C:1]([N:4]([N:3]([C:5]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])[O:7][H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:4]([C:5]([N:3]([C:2]([H:13])([H:14])[H:15])[O:7][H:8])=[C:6]([H:16])[H:17])[H:9])([H:10])([H:11])[H:12],71.63414500001991
MR_371515_1,[C:1]([N:2](/[C:3](=[C:5](\[N:4]([H:10])[H:11])[H:12])[O:7][H:9])[O:6][H:8])([H:13])([H:14])[H:15]>>[C:1]([N:2](/[C:5](=[C:3](\[O:7][H:9])[H:12])[N:4]([H:10])[H:11])[O:6][H:8])([H:13])([H:14])[H:15],65.36416500001295
MR_140057_0,[C:1]([N:3]([N:4]([C:2]([H:11])([H:12])[H:13])[H:7])[N:5][O:6])([H:8])([H:9])[H:10]>>[C:1]([N:3][N:5][O:6][N:4]([C:2]([H:11])([H:12])[H:13])[H:7])([H:8])([H:9])[H:10],54.29067249997047
